US06924284B2
Succinic anhydride (112 mg, 1.12 mmol) and N-hydroxy-4-methylsulfanyl-benzamidine (203 mg, 1.12 mmol) were dissolved in 2.0 mL of DMF and heated at 120° C. overnight. The cooled solution was evaporated and dried to give 3-[3-(4-methylsulfanyl-phenyl)-[1,2,4]oxadiazol-5-yl]-propionic acid which was used without further purification.

reactant | Succinic anhydride | 1.12 mmol, 112 mg | C1(CCC(=O)O1)=O | C4H4O3
reactant | N-hydroxy-4-methylsulfanyl-benzamidine | 1.12 mmol, 203 mg | ONC(C1=CC=C(C=C1)SC)=N | C8H10N2OS
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 3-[3-(4-methylsulfanyl-phenyl)-[1,2,4]oxadiazol-5-yl]-propionic acid | CSC1=CC=C(C=C1)C1=NOC(=N1)CCC(=O)O | C12H12N2O3S
